US05212187
N-[2-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]ethyl]-N'-[4-[3-(piperidinomethyl)phenoxy]butyl]urea
Preparation is effected analogously to Example 63, using 0.8 g (2.6 mmol) of N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,2-ethanediamine, an equimolar amount of 1,1'-carbonyldiimidazole and 0.69 g (2.7 mmol) of 4-[3-(piperidinomethyl)phenoxy]butaneamine as starting materials. Working up by chromatography (eluant: methylene chloride) analogously to Example 63 yields the purified title compound in the form of an oil; MS (+FAB method): m/z (rel. int.[%])=592 ([M+H]+, 2), 230 (100); IR (KBr): 1632 cm-1 (C≡O). For analytical purposes a sample is converted into the O,O'-ditoluoyltartaric acid salt and recrystallised from ether/isopropanol; m.p.: from 124° C. with decomposition.

reactant | N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,2-ethanediamine | 2.6 mmol, 0.8 g | ClC1=CC=C(C=C1)C(CCN(CCN)C)C1=NC=CC=C1 | C17H22ClN3
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-[3-(piperidinomethyl)phenoxy]butaneamine | 2.7 mmol, 0.69 g | N1(CCCCC1)CC=1C=C(OCCCCN)C=CC1 | C16H26N2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[2-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]ethyl]-N'-[4-[3-(piperidinomethyl)phenoxy]butyl]urea | ClC1=CC=C(C=C1)C(CCN(C)CCNC(=O)NCCCCOC1=CC(=CC=C1)CN1CCCCC1)C1=NC=CC=C1 | C34H46ClN5O2
